US07847100B2
A solution of (R)-2-amino-2-methyl-3-phenylpropan-1-ol (4.14 g, 25 mmol) and di-tertbutyldicarbonate (7.1 g, 32.5 mmol) was stirred at rt for 16 h, concentrated in to provide tert-butyl((1R)-1-benzyl-2-hydroxy-1-methylethyl)carbamate, as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.35-7.15 (m, 5H), 4.48 (br s, 1H), 4.17 (br s, 1H), 3.76-3.62 (m, 2H), 3.19 (A of AB, d, J=13.6 Hz, 1H), 2.81 (B of AB, d, J=13.6 Hz, 1H), 1.47 (s, 9H), 1.07 (s, 3H).

reactant | (R)-2-amino-2-methyl-3-phenylpropan-1-ol | 25 mmol, 4.14 g | N[C@@](CO)(CC1=CC=CC=C1)C | C10H15NO
reactant | di-tertbutyldicarbonate | 32.5 mmol, 7.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl((1R)-1-benzyl-2-hydroxy-1-methylethyl)carbamate | C(C)(C)(C)OC(N[C@](CO)(C)CC1=CC=CC=C1)=O | C15H23NO3
